* D:\4 WORKSPACE\24-OBC\OBC\0101 Modeling and Simulation\0001 LT SPICE SIMULATION\Trafo\Trafo.asc
V5 Vin 0 SINE(0 400 100E3 0 0 0) AC 1 0 Rser=0 Cpar=0
L§W2 N003 VW2 1.2u Rser=0
L§W1 0 VW1 1u Rser=0
R4 Vo N003 1
Lm VW1 0 0.00001
Rc VW1 0 100
Rp N001 Vin 0.001
Lp N001 VW1 1e-9
Rs N002 VW2 10
Ls N002 Vo 1e-9
* Real Trafo Model
.tran 0 10 0 1e-3
K1 W1 W2 1
* TRAFO
.backanno
.end
